US04304728
Ethyl 5-hydroxy-4-oxo-6-phenyl-4H-pyran-2-carboxylate
A solution of ethyl 6-benzoyl-5-oxo-2,7-dioxabicyclo[4.1.0]hept-3-ene-3-carboxylate (3.5 g) in 98-100% formic acid (50 ml) was heated under reflux for 11/2 hours, cooled, diluted with water and extracted with ethyl acetate. The extract was washed with excess sodium bicarbonate solution, dried and evaporated and the solid residue was crystallised twice from chloroform-petroleum ether 60°-80° C. to give the title product (mp 155°-157° C.).

reactant | ethyl 6-benzoyl-5-oxo-2,7-dioxabicyclo[4.1.0]hept-3-ene-3-carboxylate | 3.5 g | C(C1=CC=CC=C1)(=O)C12C(C=C(OC2O1)C(=O)OCC)=O | C15H12O6
solvent | formic acid | 50 ml | C(=O)O | CH2O2
solvent | water | O | H2O
product | Ethyl 5-hydroxy-4-oxo-6-phenyl-4H-pyran-2-carboxylate | OC=1C(C=C(OC1C1=CC=CC=C1)C(=O)OCC)=O | C14H12O5
